US07884103B2
a) (+)-2-(4-chlor-phenoxy-methyl)-2-methyl-malonic Acid Mono Methyl Ester
300 ml Phosphate buffer are heated to 30° C. and 124 mg of pig liver esterase are added and left for 15 minutes 3 g of 2-(4-chlor-phenoxy-methyl)-2-methyl-malonic acid dimethyl ester in 10 ml of isopropanol the mixture is stirred at +30° C. for 17 hours. The reaction mixture is extracted with ethylacetate to remove neutral organic matter, the remaining solution acidified to pH 2 with 2N hydrogenchlorid and extracted again with ethylacetate. The organic extract is dried over sodium sulfate, the solvent evaporated and the residue chromatographed (RP-18 column, eluant: acetonitril/water 1:1). Yield 1.73 g, M.p. 93° C.

reactant | Phosphate | 300 ml | P(=O)([O-])([O-])[O-]
reactant | 2-(4-chlor-phenoxy-methyl)-2-methyl-malonic acid dimethyl ester | 3 g | COC(C(C(=O)OC)(C)COC1=CC=C(C=C1)Cl)=O | C13H15ClO5
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | (+)-2-(4-chlor-phenoxy-methyl)-2-methyl-malonic Acid Mono Methyl Ester | COC(C(C(=O)O)(C)COC1=CC=C(C=C1)Cl)=O | C12H13ClO5
